US07932272B2
6-Chloro-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-nicotinamide
6-chloro-nicotinic acid (100 mg, 0.58 mmol), triethylamine (0.194 mL, 1.39 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (308 mg, 0.696 mmol) were dissolved in N,N-dimethylformamide (3 mL), C-(1-(3-fluoro-benzyl)-1H-pyrrol-3-yl)-methylamine (142 mg, 0.695 mmol) described in Preparation Example 59 was added, and the solution was stirred for 15 hours 10 minutes at room temperature. After the reaction was completed, the reaction solution was poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then the solution was concentrated, the resulting residue was purified by NH silica gel column chromatography (ethyl acetate:hexane=1:1), and the title compound (0.14 g, 0.39 mmol, 67%) was obtained.

reactant | 6-chloro-nicotinic acid | 0.58 mmol, 100 mg | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | triethylamine | 1.39 mmol, 0.194 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.696 mmol, 308 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | C-(1-(3-fluoro-benzyl)-1H-pyrrol-3-yl)-methylamine | 0.695 mmol, 142 mg | FC=1C=C(CN2C=C(C=C2)CN)C=CC1 | C12H13FN2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 6-Chloro-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-nicotinamide | 0.39 mmol, 0.14 g, 67% | ClC1=NC=C(C(=O)NCC2=CN(C=C2)CC2=CC(=CC=C2)F)C=C1 | C18H15ClFN3O
